US08304446B2
1,1-Dimethylethyl 3-amino-4-(methyloxy)-1H-indazole-1-carboxylate
To a solution of 4-(methyloxy)-1H-indazol-3-amine (5.56 g, 34 mmol), DMAP (2.08 g, 17 mmol) and triethylamine (4.75 mL, 34 mmol) in DCM (30 mL) was added dropwise at 0° C. a solution of di-tert-butyl dicarbonate (7.44 g, 34 mmol) in DCM (20 mL). The reaction mixture was stirred at room temperature for 1 h, then 50 mL of brine were added. The organic layer was partitioned and the aqueous phase was further extracted with 50 mL of DCM. The organic solutions were combined, washed with brine (100 mL), dried over an hydrophobic frit and concentrated under reduced pressure. The crude solid was triturated with 50 mL of Et2O, the filtrate was concentrated under reduced pressure, and triturated again with 20 mL of Et2O. Solids were combined to give the title compound (8.97 g, 67%) which was used without further purification. LCMS (System B) RT=2.9 min, ES+ve m/z 264 (M+H)+.

reactant | 4-(methyloxy)-1H-indazol-3-amine | 34 mmol, 5.56 g | COC1=C2C(=NNC2=CC=C1)N | C8H9N3O
reactant | triethylamine | 34 mmol, 4.75 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 34 mmol, 7.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 17 mmol, 2.08 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 1,1-Dimethylethyl 3-amino-4-(methyloxy)-1H-indazole-1-carboxylate | 8.97 g, 67% | NC1=NN(C2=CC=CC(=C12)OC)C(=O)OC(C)(C)C | C13H17N3O3
